US06060484
A. 2-Chloroaniline hydrochloride
Hydrogen chloride (HCl (gas)) was slowly bubbled through a cold (0° C.) solution of 2-chloroaniline (4.10 ml, 39 mmol) in 50 ml of ethanol (EtOH), resulting in the formation of a white precipitate which was isolated by filtration.

reactant | Hydrogen chloride | Cl | ClH
reactant | 2-chloroaniline | 39 mmol, 4.10 ml | ClC1=C(N)C=CC=C1 | C6H6ClN
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-Chloroaniline hydrochloride | Cl.ClC1=C(N)C=CC=C1 | InChI=1S/C6H6ClN.ClH/c7-5-3-1-2-4-6(5)8;/h1-4H,8H2;1H
